US04975506
A solution of 584 g of 1,3-bis-(3-aminophenoxy)benzene in 1,000 ml of acetone is added dropwise to a solution of 392 g of maleic anhydride and 11 g of nickel(II) acetate tetrahydrate in 1,000 ml of acetone at 10°-20° C. in the course of 1 hour. Stirring is continued for 2 hours, after which 612.6 g of acetic anhydride and 121.5 g of triethylamine are added. After heating has been carried out for 3 hours at 50° C., the mixture is cooled and 5,000 1 of water are added dropwise. The precipitated product is filtered off, washed, and dried at 70° C. under reduced pressure. 747 g (82%) of 1,3-bis-(3-maleimidophenoxy)-benzene are obtained as pale yellow crystals of melting point 138°-140° C.

reactant | 1,3-bis-(3-aminophenoxy)benzene | 584 g | NC=1C=C(OC2=CC(=CC=C2)OC2=CC(=CC=C2)N)C=CC1 | C18H16N2O2
reactant | maleic anhydride | 392 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | 612.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 121.5 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 1,000 ml | CC(=O)C | C3H6O
reactant | acetone | 1,000 ml | CC(=O)C | C3H6O
catalyst | nickel(II) acetate tetrahydrate | 11 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 1,3-bis-(3-maleimidophenoxy)-benzene | 747 g, 82% | C1(C=CC(N1C=1C=C(OC2=CC(=CC=C2)OC2=CC(=CC=C2)N2C(C=CC2=O)=O)C=CC1)=O)=O | C26H16N2O6
